US09193695B2
2-(6-Chloropyridin-3-yl)-N-methoxy-N-methylacetamide
A solution of (6-chloropyridin-3-yl)acetic acid (5.0 g), N,O-dimethylhydroxyamine hydrochloride (2.98 g), EDC.HCl (5.87 g), and N-methylmorpholine (9.6 mL) in DMF (70 mL) was stirred at room temperature for 4 days. Under ice cooling, water (150 mL) was added thereto, followed by extraction with EtOAc. The organic layer was sequentially washed with water and brine and was dried over Na2SO4. The desiccant was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (SNAP Cartridge HP-Sil: 50 g, mobile phase: n-hexane/EtOAc=75/25 to 0/100 (v/v)) to yield the title compound (3.56 g, light yellow oil).

reactant | (6-chloropyridin-3-yl)acetic acid | 5.0 g | ClC1=CC=C(C=N1)CC(=O)O | C7H6ClNO2
reactant | N,O-dimethylhydroxyamine hydrochloride | 2.98 g | Cl.CNOC
reactant | EDC.HCl | 5.87 g | CCN=C=NCCCN(C)C.Cl
reactant | N-methylmorpholine | 9.6 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | 2-(6-Chloropyridin-3-yl)-N-methoxy-N-methylacetamide | ClC1=CC=C(C=N1)CC(=O)N(C)OC | C9H11ClN2O2
